US07902191B2
(6-Morpholin-4-yl-5,6,7,8-tetrahydro-naphthalen-2-yl)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone is prepared from 4-(6-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-morpholine and (S)-(+)-1-(2-pyrrolidinylmethyl)-pyrrolidine in a manner substantially analogous to Procedure A. (See herein Example 1). Starting material, 4-(6-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-morpholine, was prepared from 6-bromo-2-tetralone and morpholine in a manner substantially analogous to Preparation 1. Mass spectrum (APCI): 389 (M++1).

reactant | 4-(6-bromo-1,2,3,4-tetrahydro-naphthalen-2-yl)-morpholine | BrC=1C=C2CCC(CC2=CC1)N1CCOCC1 | C14H18BrNO
reactant | (S)-(+)-1-(2-pyrrolidinylmethyl)-pyrrolidine | N1[C@@H](CCC1)CN1CCCC1 | C9H18N2
reactant | 6-bromo-2-tetralone | BrC=1C=C2CCC(CC2=CC1)=O | C10H9BrO
reactant | morpholine | N1CCOCC1 | C4H9NO
product | (6-Morpholin-4-yl-5,6,7,8-tetrahydro-naphthalen-2-yl)-(2-pyrrolidin-1-ylmethyl-pyrrolidin-1-yl)-methanone | N1(CCOCC1)C1CC=2C=CC(=CC2CC1)C(=O)N1C(CCC1)CN1CCCC1 | C24H35N3O2
